US04912117
A reaction mixture containing phenyl(4-piperidinyl)methanone (20.5 g, 0.108 mol), K2CO3 (33.17 g, 0.18 mol), potassium iodide (0.2 g) and 2-bromoethyl benzene (22.2 g, 0.12 mol, 16.4 ml) in toluene (250 ml) was stirred at reflux temperature for 66 h. The reaction mixture was filtered and the filtrate concentrated to a residue which was dissolved in dry Et2O (500 ml) and treated dropwise with a solution of HCl (0.11 mol) in EtOAc. The resultant precipitate was recrystallized from EtOH:CH3OH, 4:1 (500 ml) to give phenyl[1-(2-phenylethyl)-4-piperidinyl]-methanone hydrochloride, mp 258°-260° C.

reactant | phenyl(4-piperidinyl)methanone | 0.108 mol, 20.5 g | C1(=CC=CC=C1)C(=O)C1CCNCC1 | C12H15NO
reactant | K2CO3 | 0.18 mol, 33.17 g | C(=O)([O-])[O-].[K+].[K+]
reactant | potassium iodide | 0.2 g | [I-].[K+]
reactant | 2-bromoethyl benzene | 0.12 mol, 16.4 ml, 22.2 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | HCl | 0.11 mol | Cl | ClH
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | phenyl[1-(2-phenylethyl)-4-piperidinyl]-methanone hydrochloride | Cl.C1(=CC=CC=C1)C(=O)C1CCN(CC1)CCC1=CC=CC=C1 | InChI=1S/C20H23NO.ClH/c22-20(18-9-5-2-6-10-18)19-12-15-21(16-13-19)14-11-17-7-3-1-4-8-17;/h1-10,19H,11-16H2;1H
